US08664220B2
Step 1: 1-{4′-[4-(1-Benzyl-1H-[1,2,3]triazol-4-ylmethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
1-(4′-{4-[(1-Benzyl-1H-[1,2,3]triazol-4-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester (0.123 g, 0.230 mmol) and triethylsilane (0.044 mL, 0.276 mmol) were dissolved in CH2Cl2 (0.5 mL) then trifluoromethanesulfonic acid (0.5 mL) was slowly added. After stirring for 1 hour at room temperature, an additional portion of triethylsilane (0.050 mL) was added and the reaction was heated to 50° C. for 3.5 hours. An additional portion of triethylsilane (1 mL) was added and the reaction continued to stir at 50° C. for 1 hour. The reaction mixture was concentrated, dissolved in CH2Cl2, and filtered through a plug of silica gel. The crude material was then purified via preparatory HPLC to afford the title compound.

reactant | 1-(4′-{4-[(1-Benzyl-1H-[1,2,3]triazol-4-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | 0.230 mmol, 0.123 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C=1N=NN(C1)CC1=CC=CC=C1 | C32H30N4O4
reactant | triethylsilane | 0.276 mmol, 0.044 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoromethanesulfonic acid | 0.5 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | triethylsilane | 0.050 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylsilane | 1 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 1-{4′-[4-(1-Benzyl-1H-[1,2,3]triazol-4-ylmethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CC=1N=NN(C1)CC1=CC=CC=C1 | C32H30N4O3
